US06821965B1
N-(3-dimethylaminophenyl)-4-methyl-3-(6-quinolylcarbonylamino)benzamide
Using an analogous procedure to that described in Example 2, 6-quinolylcarbonyl chloride was reacted with 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide to give the title compound; NMR Spectrum: (DMSOd6) 2.35 (s, 3H), 2.91 (s, 6H), 6.58 (m, 1H), 7.2 (m, 2H), 7.43 (d, 1H), 7.65 (m, 1H), 7.82 (d, 1H), 8.01 (s, 1H), 8.17 (m, 2H), 8.32 (d, 1H), 8.59 (d, 1H), 8.7 (d, 1H), 9.02 (s, 1H), 10.05 (s, 1H), 10.32 (s, 1H); Mass Spectrum: M+H+ 425.

reactant | 6-quinolylcarbonyl chloride | N1=CC=CC2=CC(=CC=C12)C(=O)Cl | C10H6ClNO
reactant | 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)N(C)C)C=CC1C | C16H19N3O
product | N-(3-dimethylaminophenyl)-4-methyl-3-(6-quinolylcarbonylamino)benzamide | CN(C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)NC(=O)C=1C=C2C=CC=NC2=CC1)=O)C | C26H24N4O2
